US08258130B2
A solution of N-allyl-N-(2-bromo-6-fluoro-pyridin-3-yl)-2,2,2-trifluoro-acetamide (3.41 g, 10.43 mmol), palladium acetate (94 mg, 0.42 mmol), tetra(n-butylammonium) chloride (3.19 g, 11.47 mmol) and triethylamine (2.37 g, 23.4 mmol) in anhydrous DMF (20 mL) is stirred at 10° C. under N2 for an hour. DMF is evaporated off and the residue is mixed with water (12 mL) and stirred at rt for an hour. EtOAc (15 mL) is added and stirred at rt overnight. The organic layer is separated and the aqueous layer is extracted with EtOAc (35 mL). The combined organic layer is dried (Na2SO4), filtered, and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 10-60% EtOAc in heptane to afford 5-fluoro-3-methyl-1H-pyrrolo[3,2-b]pyridine (1.5 g) as a solid. MS: 151 (M+H); 1H NMR (300 MHz, CDCl3) δ 2.38(s, 3H), 6.77(d, H), 7.28(s, H), 7.74(dd, H).

reactant | N-allyl-N-(2-bromo-6-fluoro-pyridin-3-yl)-2,2,2-trifluoro-acetamide | 10.43 mmol, 3.41 g | C(C=C)N(C(C(F)(F)F)=O)C=1C(=NC(=CC1)F)Br | C10H7BrF4N2O
reactant | tetra(n-butylammonium) chloride | 11.47 mmol, 3.19 g | [Cl-].C(CCC)[NH3+].C(CCC)[NH3+].C(CCC)[NH3+].C(CCC)[NH3+].[Cl-].[Cl-].[Cl-]
reactant | triethylamine | 23.4 mmol, 2.37 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.42 mmol, 94 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-fluoro-3-methyl-1H-pyrrolo[3,2-b]pyridine | 1.5 g | FC1=CC=C2C(=N1)C(=CN2)C | C8H7FN2
